US08865704B2
trans-4-(2,4-Dioxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-ylmethyl)-cyclohexanecarboxylic acid methyl ester
Triphosgene (1.3 mmol, 0.39 g) was added portion wise to a solution of trans-4-{[2-(2-amino-phenyl)-acetylamino]-methyl}-cyclohexanecarboxylic acid methyl ester (2.6 mmol, 0.75 g) in dry CH3CN (20 mL) under argon at 0° C. Then the mixture was heated at 80° C. for 1 h with microwave irradiation. The excess of reagent was quenched by careful addition of H2O (2 mL), the solvent was removed under reduced pressure and the crude was purify by flash chromatography on silica (EtOAc-ETP 10:90 to 50:50) to obtain the titled compound (0.24 g, yield 30%).

reactant | Triphosgene | 1.3 mmol, 0.39 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | trans-4-{[2-(2-amino-phenyl)-acetylamino]-methyl}-cyclohexanecarboxylic acid methyl ester | 2.6 mmol, 0.75 g | COC(=O)[C@@H]1CC[C@H](CC1)CNC(CC1=C(C=CC=C1)N)=O | C17H24N2O3
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | trans-4-(2,4-Dioxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-ylmethyl)-cyclohexanecarboxylic acid methyl ester | 0.24 g, yield 30% | COC(=O)[C@@H]1CC[C@H](CC1)CN1C(NC2=C(CC1=O)C=CC=C2)=O | C18H22N2O4
